US07265246B2
Prepare a solution of 5-phenylthiophene-3-carboxylic acid methyl ester (500 mg, 2.29 mmol) in tetrahydrofuran (30 mL) and cool to 0° C. under nitrogen. Slowly add LiAl4 (1 M in tetrahydrofuran). After stirring for 1 hour at 0° C., quench the reaction with water, filter through Celite®, and rinse with ethyl acetate. Concentrate the filtrate to afford 416 mg of (5-phenylthiophene-3-yl)methanol as a white solid. 1H NMR (CDCl3) δ7.60-7.61 (m, 2H), 7.25-7.37 (m, 4H), 7.16 (s, 1H), 4.69 (d, J=2 Hz, 2H), 1.58 μm, 1H).

reactant | 5-phenylthiophene-3-carboxylic acid methyl ester | 2.29 mmol, 500 mg | COC(=O)C1=CSC(=C1)C1=CC=CC=C1 | C12H10O2S
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (5-phenylthiophene-3-yl)methanol | 416 mg | C1(=CC=CC=C1)C1=CC(=CS1)CO | C11H10OS
